US04900752
7,8-dihydro-6,6-dimethyl-7-hydroxy-8-(3-oxo-pyrazolidin-2-yl)-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole
To 200 mg of 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-(1-tert-butoxycarbonyl-3-oxo-pyrazolidin-2-yl)-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole were added 2 ml of trifluoroacetic acid under ice-cooling and stirred for 1 hour at the room temperature. The obtained solution was neutralized with saturated sodium bicarbonate solution and extracted with chloroform. The chloroform layer was dried over anhydrous sodium sulfate and the solvent was distilled off. The residue was added with ethyl acetate-diethyl ether (1:1) and the precipitated crystals were filtered to obtain the intended compound as colorless crystals. (Yield: 130 mg, yield: 84%)

reactant | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-(1-tert-butoxycarbonyl-3-oxo-pyrazolidin-2-yl)-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole | 200 mg | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)N1N(CCC1=O)C(=O)OC(C)(C)C)O)C | C19H24N4O6
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-(3-oxo-pyrazolidin-2-yl)-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole | yield: 84% | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)N1NCCC1=O)O)C | C14H16N4O4
